US06686373B2
1-METHYL-5,6,7,8-TETRAHYDRO-1H-PYRAZOLO[4,3-b]QUINOLIN-9-OL.
A solution of 1-methyl-1H-pyrazol-4-amine ((J. Catalan et al., J. Heterocycl. Chem., 1985, 22, 997), 200 mg, 2.06 mmol), 2-oxocyclohexanecarboxylate (351 mg, 2.06 mmol), and p-toluenesulfonic acid monohydrate (10 mg, 0.05 mmol) in toluene (20 ml) was stirred at 120° C. for 2.5 h. After cooling to room temperature, the solvent was removed in vacuo. Diphenyl ether (5 ml) was added to the residue (ca. 300 mg) and the resulting mixture was heated at 240° C. for 40 min. After cooling to room temperature, hexane (2 ml) was added. The precipitate was collected by filtration and washed with dichloromethane to give 190 mg (46%) of the title compound as a white solid.

reactant | 1-methyl-1H-pyrazol-4-amine | 2.06 mmol, 200 mg | CN1N=CC(=C1)N | C4H7N3
reactant | 2-oxocyclohexanecarboxylate | 2.06 mmol, 351 mg | O=C1C(CCCC1)C(=O)[O-]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid monohydrate | 0.05 mmol, 10 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 1-METHYL-5,6,7,8-TETRAHYDRO-1H-PYRAZOLO[4,3-b]QUINOLIN-9-OL | 190 mg, 46% | CN1N=CC2=NC=3CCCCC3C(=C21)O | C11H13N3O
